US05686424
Using the procedure described previously, a solution of 1-(2-adamantan-1-yl-2-oxoethyl) L-proline (154 mg, 0.53 mmol, 1.0 eq), L-β-phenylalanine N-benzylamide (286 mg, 1.06 mmol, 2.0 eq) and dichloromethane (1.5 mL), was treated with triethylamine (442 uL, 3.2 mmol, 6.0 eq), and a 50% solution of 1-n-propylphosphonic acid cyclic anhydride in dichloromethane (673 uL, 2.0 eq), to provide 229 mg (81%) of L-β-phenylalanine, N-[1-(2-adamantan-1-yl-2-oxoethyl)-L-prolyl] benzylamide.

reactant | 1-(2-adamantan-1-yl-2-oxoethyl) L-proline | 0.53 mmol, 154 mg, 1.0 eq | C12(CC3CC(CC(C1)C3)C2)C(CN2[C@H](C(=O)O)CCC2)=O | C17H25NO3
reactant | L-β-phenylalanine N-benzylamide | 1.06 mmol, 286 mg, 2.0 eq | C(C1=CC=CC=C1)NC(C[C@@H](N)C1=CC=CC=C1)=O | C16H18N2O
reactant | triethylamine | 3.2 mmol, 442 uL, 6.0 eq | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 673 uL, 2.0 eq | ClCCl | CH2Cl2
product | L-β-phenylalanine, N-[1-(2-adamantan-1-yl-2-oxoethyl)-L-prolyl] benzylamide | 229 mg, 81% | C12(CC3CC(CC(C1)C3)C2)C(CN2[C@H](C(=O)N(C(C[C@@H](N)C3=CC=CC=C3)=O)CC3=CC=CC=C3)CCC2)=O | C33H41N3O3
